US06204277B1
Methyl 3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionate
Sodium hydride (60% in oil, 2.11 g, 88.1 mmol) was washed twice with n-hexane (10 ml) under a nitrogen atmosphere, suspended in N,N-dimethylformamide (50 ml) and ice-cooled. To this solution was added methyl 3-(p-hydroxyphenyl)propionate (15.9 g, 88.1 mol) over 15 min. After 10 min when hydrogen bubbling finished, a solution of ethyl 2-(5-methyl-2-phenyl-4-oxazolyl)-p-toluenesulfonate (20.0 g, 56.0 mmol) in N,N-dimethylformamide (50 ml) was added. The mixture was stirred at room temperature for 5 hr, and ethyl aceate (500 ml) and 1N aqueous sodium hydroxide solution (200 ml) were added for partition. The obtained organic layer was washed with 1N hydrochloric acid (100 ml), saturated aqueous sodium hydrogencarbonate solution (100 ml) and saturated brine (100 ml), dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent; n-hexane:ethyl acetate=85:15) to give the title compound (14.0 g, yield 68%) as a white solid.

reactant | Sodium hydride | 88.1 mmol, 2.11 g | [H-].[Na+]
reactant | methyl 3-(p-hydroxyphenyl)propionate | 88.1 mol, 15.9 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | hydrogen | [H][H] | H2
reactant | ethyl 2-(5-methyl-2-phenyl-4-oxazolyl)-p-toluenesulfonate | 56.0 mmol, 20.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)C1=C(C=CC(=C1)S(=O)(=O)OCC)C | C19H19NO4S
reactant | sodium hydroxide | 1N, 200 ml | [OH-].[Na+]
solvent | n-hexane | 10 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl aceate | 500 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionate | 14.0 g, yield 68% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCC(=O)OC | C22H23NO4
